US06211199B1
34.2 Synthesis of 2-(2-(t-butyldimethylsilyloxy)ethyl)-2-allyl-3-phenylpropionitrile
Combine 2-(2-(t-butyldimethylsilyloxy)ethyl)-3-phenylpropionitrile (1.32 g,4.55 mmol) and tetrahydrofuran (8 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of lithium bis(trimethylsilyl)amide (9.1 mL, 1 M in THF, 9.1 mmol). After 30 minutes, add hexamethylphosphoramide (0.25 mL) and allyl bromide (1.10 g, 9.1 mmol). Warm slowly to ambient temperature. After 12 hours, add water and separate the layers. Extract the aqueous layer three times with ethyl acetate. Combine the organic layers and extract with aqueous 1 M hydrochloric acid solution. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5% ethyl acetate/hexane to give the title compound: Rf=0.83 (silica gel, 1/4 ethyl acetate/hexane).

reactant | 2-(2-(t-butyldimethylsilyloxy)ethyl)-3-phenylpropionitrile | 4.55 mmol, 1.32 g | [Si](C)(C)(C(C)(C)C)OCCC(C#N)CC1=CC=CC=C1 | C17H27NOSi
reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 9.1 mmol, 1 M, 9.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 9.1 mmol, 1.10 g | C(C=C)Br | C3H5Br
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
solvent | hexamethylphosphoramide | 0.25 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-(2-(t-butyldimethylsilyloxy)ethyl)-2-allyl-3-phenylpropionitrile | [Si](C)(C)(C(C)(C)C)OCCC(C#N)(CC1=CC=CC=C1)CC=C | C20H31NOSi
